US05614550
1(i) 2-Mesyloxyethyl-6-methylthio-1-nitrobenzene
76 mg (0.66 mmol) of mesyl chloride and then 69 mg (0.68 mmol) of triethylamine were added to 5 ml of a methylene chloride solution containing 100 mg (0.50 mmol) of 2-hydroxymethyl-6-methylthio-1-nitrobenzene, in an ice bath. The mixture was stirred at the temperature of the ice bath for 1 hour and 15 minutes. At the end of this time, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic extract was separated and washed with 2N aqueous hydrochloric acid and then with water. The solvent was then removed by distillation under reduced pressure, to obtain the title compound. This product was used for the next step without purification.

reactant | mesyl chloride | 0.66 mmol, 76 mg | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethylamine | 0.68 mmol, 69 mg | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
reactant | 2-hydroxymethyl-6-methylthio-1-nitrobenzene | 0.50 mmol, 100 mg | OCC1=C(C(=CC=C1)SC)[N+](=O)[O-] | C8H9NO3S
reactant | water | O | H2O
product | 2-Mesyloxyethyl-6-methylthio-1-nitrobenzene | S(=O)(=O)(C)OCCC1=C(C(=CC=C1)SC)[N+](=O)[O-] | C10H13NO5S2
